US08227478B2
A mixture of 4-bromo-1-(2-methylsulfinyl-pyrimidin-4-yl)-1H-indole (4.98 g) and 4-amino-cyclohexanecarboxylic acid ethyl ester (5.07 g) in 1,4-dioxane (100 mL) was stirred at 110° C. under N2 for 5.5 h. The solvent was removed in vacuo to provide an oil, which solidified at RT. The product was flash chromatographed on silica, eluting with hexanes/EtOAc (7:3 to 6:4) to provide 4-[4-(4-bromoindol-1-yl)-pyrimidin-2-ylamino]-cyclohexanecarboxylic acid ethyl ester (5.82 g, 89%) as a white powder.

reactant | 4-bromo-1-(2-methylsulfinyl-pyrimidin-4-yl)-1H-indole | 4.98 g | BrC1=C2C=CN(C2=CC=C1)C1=NC(=NC=C1)S(=O)C | C13H10BrN3OS
reactant | 4-amino-cyclohexanecarboxylic acid ethyl ester | 5.07 g | C(C)OC(=O)C1CCC(CC1)N | C9H17NO2
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-[4-(4-bromoindol-1-yl)-pyrimidin-2-ylamino]-cyclohexanecarboxylic acid ethyl ester | 5.82 g, 89% | C(C)OC(=O)C1CCC(CC1)NC1=NC=CC(=N1)N1C=CC2=C(C=CC=C12)Br | C21H23BrN4O2
